US08809369B2
A mixture solution of 2-(5-bromo-2-chloro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester (1.39 g, 3.53 mmol), oxazolidin-2-one (323 mg, 3.7 mmol), copper(I) iodide (135 mg, 0.71 mmol), N,N′-dimethyl-ethane-1,2-diamine (0.152 mL, 1.41 mmol), and potassium carbonate (1.46 g, 10.6 mmol) in acetonitrile (30 mL) was stirred at 90° C. for 72 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (200 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 2-[2-chloro-5-(2-oxo-oxazolidin-3-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.7 g, 49%) as a white solid: MS (ESI) M+1=401.0.

reactant | 2-(5-bromo-2-chloro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester | 3.53 mmol, 1.39 g | COC(=O)C=1C=C2C(CC(NC2=CC1)C1=C(C=CC(=C1)Br)Cl)(C)C | C19H19BrClNO2
reactant | oxazolidin-2-one | 3.7 mmol, 323 mg | O1C(NCC1)=O | C3H5NO2
reactant | N,N′-dimethyl-ethane-1,2-diamine | 1.41 mmol, 0.152 mL | CNCCNC | C4H12N2
reactant | potassium carbonate | 10.6 mmol, 1.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | copper(I) iodide | 0.71 mmol, 135 mg | [Cu]I
product | 2-[2-chloro-5-(2-oxo-oxazolidin-3-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.7 g, 49% | ClC1=C(C=C(C=C1)N1C(OCC1)=O)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C21H21ClN2O4
